US08071773B2
d) 6,7-Dihydro-5H-spiro[imidazo[1,5-a]pyridine-8,2′-oxirane]
Sodium hydride (22 mmol) washed with pentane is admixed under argon with 20 ml of dimethyl sulphoxide. The mixture is heated at 60° C. for an hour and then diluted with 5 ml of tetrahydrofuran. The mixture is cooled to 0° C. and a solution of 21 mmol of trimethyl-sulphonium iodide in 5 ml of N,N-dimethylformamide is added at 0° C., after which the mixture is stirred for 10 minutes. A solution of 20 mmol of 6,7-dihydro-5H-imidazo[1,5-a]pyridin-8-one [426219-51-4] in 5 ml of N,N-dimethylformamide is added and the reaction mixture is stirred at 60° C. for 18 hours. The reaction mixture is poured into cold brine and extracted with tert-butyl methyl ether. The combined organic phases are washed with brine, dried with sodium sulphate and evaporated. From the residue the title compound is identified by means of flash chromatography (SiO2 60 F) on the basis of the Rf value.

reactant | Sodium hydride | 22 mmol | [H-].[Na+]
reactant | dimethyl sulphoxide | 20 ml | CS(=O)C | C2H6OS
reactant | trimethyl-sulphonium iodide | 21 mmol | [I-].C[S+](C)C
reactant | 6,7-dihydro-5H-imidazo[1,5-a]pyridin-8-one | 20 mmol | C=1N=CN2C1C(CCC2)=O | C7H8N2O
solvent | pentane | CCCCC | C5H12
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 6,7-Dihydro-5H-spiro[imidazo[1,5-a]pyridine-8,2′-oxirane] | O1C2(C1)C=1N(CCC2)C=NC1 | C8H10N2O
